US07547691B2
(C). Preparation of 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester
Triphenylphosphine (0.657 g, 2.50 mmol) is added to a stirred solution of 4-(3-azido-propyl)-piperidine-1-carboxylic acid tert-butyl ester (0.560 g, 2.09 mmol) in THF (2 mL)/CH3CN (5 mL)/H2O (1 mL) and the mixture is stirred at ambient temperature for 18 hours. After concentration and subsequent chromatography purification on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 0-15%, the title compound is obtained as a clear oil (0.420 g, 83% yield).

reactant | Triphenylphosphine | 2.50 mmol, 0.657 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(3-azido-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.09 mmol, 0.560 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN=[N+]=[N-] | C13H24N4O2
reactant | CH3CN | 5 mL | CC#N | C2H3N
reactant | H2O | 1 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
